US07846929B2
To a solution of 60 mg of N-(3-(2-chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine-6-yl)phenyl)acetamide and 78 mg of cesium carbonate in DMF was added 12 μL of iodomethane. The reaction mixture was stirred for 2 h at room temperature. The mixture was diluted with ethyl acetate, washed with H2O. The organic layer was dried over (MgSO4) and evaporated to yield N-(3-(2-chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine-6-yl)phenyl)-N-methylacetamide.

reactant | N-(3-(2-chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine-6-yl)phenyl)acetamide | 60 mg | ClC=1N=C(C2=C(N1)CC(S2)(I)C=2C=C(C=CC2)NC(C)=O)N2CCOCC2 | C18H18ClIN4O2S
reactant | cesium carbonate | 78 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 12 μL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-(2-chloro-6-iodo-4-morpholinothieno[3,2-d]pyrimidine-6-yl)phenyl)-N-methylacetamide | ClC=1N=C(C2=C(N1)CC(S2)(I)C=2C=C(C=CC2)N(C(C)=O)C)N2CCOCC2 | C19H20ClIN4O2S
